US05910565
In 80 ml of chloroform were dissolved 14.8 g (42 mmol) of t-butyloxycarbonylglycine.dicyclohexylamine and 14.0 g (41.5 mmol) of glycine benzyl ester p-toluenesulfonic acid salt. To this solution, 70 ml of a chloroform solution containing 8.75 g (45.7 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDAC) were added at -5° C. with stirring. The resulting mixture was stirred for 24 hours. The resulting chloroform solution was successively washed twice with a 10% by weight aqueous citric acid solution, then twice with water, then twice with a 4% by weight aqueous sodium hydrogen carbonate solution and finally twice with water. Thereafter, the organic phase was dried over anhydrous sodium sulfate. The solvent was then completely removed in vacuo to obtain a white oily material. This was crystallized from hexane to obtain 12.8 g (yield: 96%) of t-butyloxycarbonyl-glycylglycine benzyl ester as a white solid. In 10 ml of ethyl acetate were dissolved 8.0 g (24.8 mmol) of t-butyl oxycarbonylglycylglycine benzyl ester, to which 120 ml of 4N HCl/ethyl acetate were added. The mixture was stirred for 4 hours and then the solvent was removed in vacuo to obtain white precipitates. The precipitates were washed well with diethyl ether to obtain 6.4 g (yield: 100%) of glycylglycine benzyl ester hydrochloride as a white solid having the following physical properties:

reactant | t-butyl oxycarbonylglycylglycine benzyl ester | 24.8 mmol, 8.0 g | C(C1=CC=CC=C1)OC(CNC(CNC(=O)OC(C)(C)C)=O)=O | C16H22N2O5
reactant | HCl ethyl acetate | 4N, 120 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | glycylglycine benzyl ester hydrochloride | 6.4 g, yield: 100% | Cl.C(C1=CC=CC=C1)OC(CNC(CN)=O)=O | InChI=1S/C11H14N2O3.ClH/c12-6-10(14)13-7-11(15)16-8-9-4-2-1-3-5-9;/h1-5H,6-8,12H2,(H,13,14);1H
